US08232284B2
2,3-Dichloro-5-(2,2-diethoxyethoxy)pyridine (240 mg, 0.85 mmol) and potassium tert-butoxide (100 mg, 0.92 mmol) were added to an N,N-dimethylacetamide suspension (1 ml) of 4-[(5-methoxy[1,3]thiazolo[5,4-b]pyridin-2-yl)amino]quinazolin-6-ol (120 mg, 0.37 mmol), and stirred for 24 hours at 200° C. in a sealed tube. The reaction solution was cooled to room temperature, then aqueous saturated ammonium chloride solution was added, filtered, and washed with a mixed solution of chloroform/methanol (9:1). The obtained filtrate was extracted with chloroform, the organic layer was washed with water and saturated saline water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by reversed-phase liquid chromatography (YMC CombiPrep Pro C18 AS-360-cc) to obtain 6-{[3-chloro-5-(2,2-diethoxyethoxy)pyridin-2-yl]oxy}-N-(5-methoxy[1,3]thiazolo[5,4-b]pyridin-2-yl)quinazoline-4-amine (5 mg, yield: 2%) as a pale yellow solid.

reactant | 2,3-Dichloro-5-(2,2-diethoxyethoxy)pyridine | 0.85 mmol, 240 mg | ClC1=NC=C(C=C1Cl)OCC(OCC)OCC | C11H15Cl2NO3
reactant | potassium tert-butoxide | 0.92 mmol, 100 mg | CC(C)([O-])C.[K+]
reactant | 4-[(5-methoxy[1,3]thiazolo[5,4-b]pyridin-2-yl)amino]quinazolin-6-ol | 0.37 mmol, 120 mg | COC1=CC=C2C(=N1)SC(=N2)NC2=NC=NC1=CC=C(C=C21)O | C15H11N5O2S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylacetamide | 1 ml | CN(C(C)=O)C | C4H9NO
product | 6-{[3-chloro-5-(2,2-diethoxyethoxy)pyridin-2-yl]oxy}-N-(5-methoxy[1,3]thiazolo[5,4-b]pyridin-2-yl)quinazoline-4-amine | 5 mg, yield: 2% | ClC=1C(=NC=C(C1)OCC(OCC)OCC)OC=1C=C2C(=NC=NC2=CC1)NC=1SC2=NC(=CC=C2N1)OC | C26H25ClN6O5S
